US07381841B2
b) 5-Methanesulfonyl-2-methyl-4-(4-pentafluorosulfanylphenylamino)benzoic acid
70 mg of methyl 5-methanesulfonyl-2-methyl-4-(4-pentafluorosulfanyl-phenylamino)benzoate were dissolved in 2 ml of MeOH, and 0.12 ml of a 2N aqueous NaOH solution was added. The mixture was stirred at RT for 2 h and then left to stand at RT for 16 h. The reaction mixture was then poured into 50 ml of water, adjusted to pH=2 with aqueous HCl solution and stirred at RT for 30 minutes, and finally the product was filtered off with suction. 66 mg of colorless crystals were obtained, mp 106-109° C.

reactant | methyl 5-methanesulfonyl-2-methyl-4-(4-pentafluorosulfanyl-phenylamino)benzoate | 70 mg | CS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)C)NC1=CC=C(C=C1)S(F)(F)(F)(F)F | C16H16F5NO4S2
reactant | NaOH | 2N | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | MeOH | 2 ml | CO | CH4O
product | 5-Methanesulfonyl-2-methyl-4-(4-pentafluorosulfanylphenylamino)benzoic acid | 66 mg | CS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)C)NC1=CC=C(C=C1)S(F)(F)(F)(F)F | C15H14F5NO4S2
